US04785090
11.9 g of DL-homoserine was dissolved in 200 ml of water, and 10 g of Na2CO3 and 150 ml of dioxane were added thereto. 50 ml of a dioxane solution containing 27.5 g of di-t-butyl dicarbonate was added dropwise thereto over an hour. Thereafter, a reaction was effected at room temperature for 2 hours. After completion of the reaction, the dioxane was removed under reduced pressure, the residue was washed with ethyl acetate, and, after adjusting the pH to 2 with 5N hydrochloric acid with ice cooling, extracted twice with 400 ml of ethyl acetate. The ethyl acetate layer was washed with saturated saline, dried on magnesium sulfate, and concentrated to dryness to obtain 18.5 g of N-t-butoxycarbonyl DL-homoserine.

reactant | DL-homoserine | 11.9 g | NC(CCO)C(=O)O | C4H9NO3
reactant | Na2CO3 | 10 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dioxane | 150 ml | O1CCOCC1 | C4H8O2
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
reactant | di-t-butyl dicarbonate | 27.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 ml | O | H2O
product | N-t-butoxycarbonyl DL-homoserine | 18.5 g | C(C)(C)(C)OC(=O)NC(CCO)C(=O)O | C9H17NO5
